US08859550B2
tert-Butyl methyl(1-(tetrazolo[1,5-a]pyrazin-8-yl)azetidin-3-yl)carbamate
A 2 L round bottom flask was charged with 8-chlorotetrazolo[1,5-a]pyrazine (100 g, 0.64 mol), triethylamine (195 g, 1.93 mol) and ethanol (1 L). To the above was added tert-butyl azetidin-3-yl(methyl)carbamate hydrochloride (146 g, 0.66 mol) at 25° C. The resulting mixture was stirred at 25° C. for 1 h. Work-up: the resulting crystalline solid was collected by filtration, washed with ethanol (200 mL), and dried to afford 176 g (91%) of the product as a white solid. MS m/z: 306 (M+H+).

reactant | 8-chlorotetrazolo[1,5-a]pyrazine | 0.64 mol, 100 g | ClC=1C=2N(C=CN1)N=NN2 | C4H2ClN5
reactant | triethylamine | 1.93 mol, 195 g | C(C)N(CC)CC | C6H15N
reactant | tert-butyl azetidin-3-yl(methyl)carbamate hydrochloride | 0.66 mol, 146 g | Cl.N1CC(C1)N(C(OC(C)(C)C)=O)C
solvent | ethanol | 1 L | C(C)O | C2H6O
product | tert-Butyl methyl(1-(tetrazolo[1,5-a]pyrazin-8-yl)azetidin-3-yl)carbamate | 176 g, 91% | CN(C(OC(C)(C)C)=O)C1CN(C1)C=1C=2N(C=CN1)N=NN2 | C13H19N7O2
